US05981525
(2Z,4E)-N,N-Diethyl-5-(2-indolyl)-2-methoxy-2,4-pentadienamide.
To a solution of (2Z,4E)-5-(2-indolyl)-2-methoxy-2,4-pentadienoic acid (0.1 g, 0.41 mmol), diethylamine (0.042 ml, 0.41 mmol) and 1-hydroxybenzotriazole (55 mg, 0.41 nmol) in DMF/THF 1:1 (50 Ml), DCC (0.093 g, 0.45 mmol) was added at 0° C. The resulting solution was stirred at room temperature for 48 hours. The solvent was removed under reduced pressure and the residue was dissolved in dichloromethane, washed successively with 10% HCl, saturated solution of NaHCO3 and water, dried and evaporated under vacuum. The crude material was purified by column chromatography (EtOAc/hexane 4:6) and triturated with isopropyl ether to yield 21 mg (17.2%) of the title compound as a light yellow solid, m.p.=141-143° C.

reactant | (2Z,4E)-5-(2-indolyl)-2-methoxy-2,4-pentadienoic acid | 0.41 mmol, 0.1 g | N1C(=CC2=CC=CC=C12)/C=C/C=C(/C(=O)O)\OC | C14H13NO3
reactant | diethylamine | 0.41 mmol, 0.042 ml | C(C)NCC | C4H11N
reactant | 1-hydroxybenzotriazole | 0.41 nmol, 55 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | DCC | 0.45 mmol, 0.093 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF THF | CN(C)C=O.C1CCOC1
product | (2Z,4E)-N,N-Diethyl-5-(2-indolyl)-2-methoxy-2,4-pentadienamide | 21 mg, 17.2% | C(C)N(C(/C(=C/C=C/C=1NC2=CC=CC=C2C1)/OC)=O)CC | C18H22N2O2
